US06326369B1
4,5,6-Trimethoxy-2-[6-(4,5,6-trimethoxy-2,3-dihydro-1H-2-indenyl)hexyl]indan
To a solution of 5,6,7-trimethoxy-2-[6-(5,6,7-trimethoxy-1-oxo-2,3-dihydro-1H-2-indenyl)hexyl]-1-indanone in acetic acid (50 ml) were added 10% Pd—C (1 g) and perchloric acid (1 ml), and the reaction mixture was hydrogenated under hydrogen atmosphere (4 to 5 atm) at 50° C. for 6 hr. The catalyst was filtered off and the filtrate was concentrated in vacuo, and the residue was dissolved in ethyl acetate, washed with saturated aqueous sodium bicarbonate, water, dried, concentrated in vacuo. The residue was purified by silica gel column chromatography (ethyl acetate) and then with recrystallization from ethyl acetate-hexane gave the entitled compound (4.5 g) as crystals.

reactant | 5,6,7-trimethoxy-2-[6-(5,6,7-trimethoxy-1-oxo-2,3-dihydro-1H-2-indenyl)hexyl]-1-indanone | COC=1C=C2CC(C(C2=C(C1OC)OC)=O)CCCCCCC1C(C2=C(C(=C(C=C2C1)OC)OC)OC)=O | C30H38O8
reactant | perchloric acid | 1 ml | Cl(=O)(=O)(=O)O | ClHO4
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | Pd—C | 1 g | [Pd] | Pd
product | 4,5,6-Trimethoxy-2-[6-(4,5,6-trimethoxy-2,3-dihydro-1H-2-indenyl)hexyl]indan | 4.5 g | COC1=C2CC(CC2=CC(=C1OC)OC)CCCCCCC1CC2=CC(=C(C(=C2C1)OC)OC)OC | C30H42O6
